US06262040B1
1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid pyridin-3-ylamide
This compound was prepared according to the method of Example 15, using 58 mg (0.210 mmol, 1.0 equiv) 1-cyclopentyl-3-ethyl-1H-indazole-6-carbonyl chloride and 22 mg (0.231 mmol, 1.1 equiv) 3-aminopyridine as starting materials, to give 24 mg (34%) of white crystals: mp 133-135° C.; HRMS calcd for C20H22N4O+H: 335:1872. Found: 335.1900.

reactant | 1-cyclopentyl-3-ethyl-1H-indazole-6-carbonyl chloride | 0.210 mmol, 58 mg, 1.0 equiv | C1(CCCC1)N1N=C(C2=CC=C(C=C12)C(=O)Cl)CC | C15H17ClN2O
reactant | 3-aminopyridine | 0.231 mmol, 22 mg, 1.1 equiv | NC=1C=NC=CC1 | C5H6N2
product | 1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid pyridin-3-ylamide | 24 mg, 34% | N1=CC(=CC=C1)NC(=O)C1=CC=C2C(=NN(C2=C1)C1CCCC1)CC | C20H22N4O
